US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-fluoro-phenyl)-acrylonitrile (Compound 13)
3-Fluorobenzaldehyde (2.0 g) and 3,4-dimethoxybenzyl cyanide (2.9 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (0.7 g, yield: 15%).

reactant | 3-Fluorobenzaldehyde | 2.0 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | 3,4-dimethoxybenzyl cyanide | 2.9 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-fluoro-phenyl)-acrylonitrile | 0.7 g, yield: 15% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=CC=C1)F | C17H14FNO2
